US07074800B1
10% Palladium on charcoal (200 mg) followed by ammonium formate (4.34 g, 69 mmol) were added to a solution of 7-benzyloxy-4-(2-methylindol-5-yloxy)quinazoline (1.75 g, 4.58 mmol) in DMF (60 ml). After stirring for 1 hour at ambient temperature, the mixture was filtered. The filtrate was evaporated. The residue was triturated with water, filtered, washed with ethyl acetate, and dried under vacuum to give 7-hydroxy-4-(2-methylindol-5yloxy)quinazoline (1.24 g, 93%).

reactant | ammonium formate | 69 mmol, 4.34 g | C(=O)[O-].[NH4+]
reactant | 7-benzyloxy-4-(2-methylindol-5-yloxy)quinazoline | 4.58 mmol, 1.75 g | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C | C24H19N3O2
catalyst | Palladium on charcoal | 200 mg | [Pd] | Pd
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 7-hydroxy-4-(2-methylindol-5yloxy)quinazoline | 1.24 g, 93% | OC1=CC=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C | C17H13N3O2
